US07326511B2
Synthesis of 2,2,2-Trifluoro-1-(4-{3-[4-(2,2,2-trifluoro-1-vinylsulfonyloxyimino-ethyl)-phenoxy]-propoxy}-phenyl)-ethanone oxime vinylsulfonate
In 30 mL of CH2Cl2 are dissolved 3.0 g (6.66 mmol) of 2,2,2-Trifluoro-1-(4-{3-[4-(2,2,2-trifluoro-1-hydroxyimino-ethyl)-phenoxy]-propoxy}-phenyl)-ethanone oxime, which is prepared according to the method described in GB 2348644, and the solution is cooled in an ice-bath. To the solution are added successively 2,6-lutidine (3.5 mL, 30.0 mmol) and 2-chloroethanesulfonyl chloride (1.55 mL, 14.7 mmol), and the reaction solution is stirred at 0° C. for 1 h and at room temperature for 2.5 h. Then, it is poured into 1N HCl. The crude product is extracted with CH2Cl2, washed with 1N HCl, dried over MgSO4 and concentrated. The residue is purified by recrystallizaffon from methanol to afford the product as a beige solid. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 2.32 (m, 2H), 4.23 (t, 4H), 6.32 (d, 2H), 6.61 (d, 2H), 6.72 (dd, 2H), 7.00 (d, 4H), 7.50 (d, 4H). mp. 84-88° C.

reactant | 2,2,2-Trifluoro-1-(4-{3-[4-(2,2,2-trifluoro-1-hydroxyimino-ethyl)-phenoxy]-propoxy}-phenyl)-ethanone oxime | 6.66 mmol, 3.0 g | FC(C(=NO)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)C(C(F)(F)F)=NO)(F)F | C19H16F6N2O4
reactant | 2,6-lutidine | 30.0 mmol, 3.5 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-chloroethanesulfonyl chloride | 14.7 mmol, 1.55 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | HCl | 1N | Cl | ClH
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-1-(4-{3-[4-(2,2,2-trifluoro-1-vinylsulfonyloxyimino-ethyl)-phenoxy]-propoxy}-phenyl)-ethanone oxime vinylsulfonate | C(=C)S(=O)(=O)O.FC(C(=NO)C1=CC=C(C=C1)OCCCOC1=CC=C(C=C1)C(C(F)(F)F)=NOS(=O)(=O)C=C)(F)F | InChI=1S/C21H18F6N2O6S.C2H4O3S/c1-2-36(31,32)35-29-19(21(25,26)27)15-6-10-17(11-7-15)34-13-3-12-33-16-8-4-14(5-9-16)18(28-30)20(22,23)24;1-2-6(3,4)5/h2,4-11,30H,1,3,12-13H2;2H,1H2,(H,3,4,5)
